US07786165B2
3-[4-({4-[(3,5-diphenyl-1H-pyrazol-1-yl)methyl]-3-methoxybenzyl}amino)-2-fluorophenyl]propanoic acid dihydrochloride
To a solution of ethyl 3-[4-({4-[(3,5-diphenyl-1H-pyrazol-1-yl)methyl]-3-methoxybenzyl}amino)-2-fluorophenyl]propanoate (0.57 g, 1.01 mmol) in a mixture of methanol (4.0 mL) and tetrahydrofuran (8.0 mL) was added 1 N aqueous sodium hydroxide solution (2.02 mL, 2.02 mmol), and the mixture was stirred at room temperature for 3 hr. The reaction mixture was diluted with ethyl acetate, and the organic layer was washed with 10% aqueous citric acid solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=2/1-hexane/ethyl acetate=1/2) to give a colorless oil. The obtained oil was dissolved in ethyl acetate, and 4 N hydrogen chloride/ethyl acetate solution was added. The precipitated crystals were collected by filtration, washed with ethyl acetate and dried to give the title compound (0.48 g, yield 77%) as colorless crystals.

reactant | ethyl 3-[4-({4-[(3,5-diphenyl-1H-pyrazol-1-yl)methyl]-3-methoxybenzyl}amino)-2-fluorophenyl]propanoate | 1.01 mmol, 0.57 g | C1(=CC=CC=C1)C1=NN(C(=C1)C1=CC=CC=C1)CC1=C(C=C(CNC2=CC(=C(C=C2)CCC(=O)OCC)F)C=C1)OC | C35H34FN3O3
reactant | sodium hydroxide | 2.02 mmol, 1 N, 2.02 mL | [OH-].[Na+]
reactant | hydrogen chloride ethyl acetate | 4 N | Cl.C(C)(=O)OCC
solvent | methanol | 4.0 mL | CO | CH4O
solvent | tetrahydrofuran | 8.0 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[4-({4-[(3,5-diphenyl-1H-pyrazol-1-yl)methyl]-3-methoxybenzyl}amino)-2-fluorophenyl]propanoic acid dihydrochloride | 0.48 g, yield 77% | Cl.Cl.C1(=CC=CC=C1)C1=NN(C(=C1)C1=CC=CC=C1)CC1=C(C=C(CNC2=CC(=C(C=C2)CCC(=O)O)F)C=C1)OC | InChI=1S/C33H30FN3O3.2ClH/c1-40-32-18-23(21-35-28-16-14-24(29(34)19-28)15-17-33(38)39)12-13-27(32)22-37-31(26-10-6-3-7-11-26)20-30(36-37)25-8-4-2-5-9-25;;/h2-14,16,18-20,35H,15,17,21-22H2,1H3,(H,38,39);2*1H
